US07812028B2
Preparation of 6-[2-(5-Fluoro-pyridin-2-yl)-ethyl]-N-((1R,2R)-2-hydroxy-cyclohexyl)-5-(4-trifluoromethyl-phenyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 140, using 2-ethynyl-5-fluoro-pyridine (CAN 884494-34-2), 6-chloro-5-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester, and (1R,2R)-2-amino-cyclohexanol (commercially available) as starting materials, LC at 215 nm; Rt 4.26: 95%, m/z (ES+): 488.5 (M+H).

reactant | 2-ethynyl-5-fluoro-pyridine | C(#C)C1=NC=C(C=C1)F | C7H4FN
reactant | 6-chloro-5-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)C1=CC=C(C=C1)C(F)(F)F)Cl)=O | C14H9ClF3NO2
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 6-[2-(5-Fluoro-pyridin-2-yl)-ethyl]-N-((1R,2R)-2-hydroxy-cyclohexyl)-5-(4-trifluoromethyl-phenyl)-nicotinamide | FC=1C=CC(=NC1)CCC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=CC=C(C=C1)C(F)(F)F | C26H25F4N3O2
